US06417192B1
A mixture of 8-phenyl-1-octanol (1.5 g), 2-nitroamino-5-(pyrid-3-ylmethyl)pyrimidin-4-one (1.0 g) and pyridine (5 ml) was stirred at reflux for 24 hours, then the pyridine was removed by evaporation. Water was added, and the product extracted into dichloromethane, which was dried and evaporated. The residue was purified by chromatography (silica, 0-5% methanol in dichloromethane) and recrystallisation from ether to give 2-(8-phenyloct-1-yl)oxy-5-(pyrid-3-ylmethyl)pyrimidin-4-one as a pale buff solid (0.1 g). MPt 53-55° C.; 1H-NMR (CDCl3) δ 1.32 (8H, m), 1.60 (2H, m), 1.74 (2H, m), 2.58 (2H, t), 3.72 (2H, t), 4.31 (2H, t), 7.1-7.3 (6H, m), 7.54 (1H, m), 7.63 (1H, m), 8.45 (1H, m) and 8.55 (1H, d); MS (EI) Found M=391; C24H29N3O2 requires 391.

reactant | 8-phenyl-1-octanol | 1.5 g | C1(=CC=CC=C1)CCCCCCCCO | C14H22O
reactant | 2-nitroamino-5-(pyrid-3-ylmethyl)pyrimidin-4-one | 1.0 g | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC=1C=NC=CC1 | C10H9N5O3
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 2-(8-phenyloct-1-yl)oxy-5-(pyrid-3-ylmethyl)pyrimidin-4-one | C1(=CC=CC=C1)CCCCCCCCOC1=NC=C(C(N1)=O)CC=1C=NC=CC1 | C24H29N3O2
